US08791123B2
Step C: Preparation of (R)—N-cyclopropyl-5-(2-(3-fluoro-5-(2-methoxyethoxy)phenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
Prepared by the method described in Example 1 using (R)-5-(2-(3-fluoro-5-(2-methoxyethoxy)phenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid and cyclopropylamine to yield the title compound as a white solid (16 mg, 52% yield). MS (apci) m/z=440.1 (M+H).

reactant | (R)-5-(2-(3-fluoro-5-(2-methoxyethoxy)phenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC=1C=C(C=C(C1)OCCOC)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O | C20H21FN4O4
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | (R)—N-cyclopropyl-5-(2-(3-fluoro-5-(2-methoxyethoxy)phenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 16 mg, 52% yield | C1(CC1)NC(=O)C=1C=NN2C1N=C(C=C2)N2[C@H](CCC2)C2=CC(=CC(=C2)OCCOC)F | C23H26FN5O3
